US07129238B2
(RS)-Biphenyl-4-yl-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-biphenyl-4-yl-N-(4-cyano-benzyl)-2-methoxy-acetamide. Light yellow solid.

reactant | (RS)-Biphenyl-4-yl-methoxy-acetic acid | C1(=CC=C(C=C1)C(C(=O)O)OC)C1=CC=CC=C1 | C15H14O3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-biphenyl-4-yl-N-(4-cyano-benzyl)-2-methoxy-acetamide | C1(=CC=C(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)C1=CC=CC=C1 | C23H20N2O2
